US06699887B2
A solution containing 32 mg of [5-(3,5-dichlorophenylthio)-1-isopropyl-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone in 2 ml of methanol was treated with 6 mg of sodium borohydride at rt under nitrogen. The mixture was then stirred at rt overnight. To the mixture was added 2 ml of water and then extracted with diethyl ether three times. Combined extracts were washed with brine then dried over anhydrous magnesium sulphate, filtered and evaporated to give 30 mg of [5-(3,5-dichlorophenylthio)-1-isopropyl-3-methyl-1H-pyrazol-4-yl]-phenyl-methanol as a white solid which was used without further purification. Mass spectrum (ES) m/z 407[M+H]+.

reactant | [5-(3,5-dichlorophenylthio)-1-isopropyl-3-methyl-1H-pyrazol-4-yl]-phenyl-methanone | 32 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)C)C(=O)C1=CC=CC=C1 | C20H18Cl2N2OS
reactant | sodium borohydride | 6 mg | [BH4-].[Na+]
reactant | water | 2 ml | O | H2O
solvent | methanol | 2 ml | CO | CH4O
product | [5-(3,5-dichlorophenylthio)-1-isopropyl-3-methyl-1H-pyrazol-4-yl]-phenyl-methanol | 30 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(C(=NN1C(C)C)C)C(O)C1=CC=CC=C1 | C20H20Cl2N2OS
